US04490552
A solution of 1000 parts by weight of p-tolyl thallium acetate perchlorate (p-CH3C6H4TlClO4CH3COO) in 6000 parts by weight of water and a solution of 2 parts by weight of palladium (II)-acetate [Pd(OAc)2 ] in 1500 parts by weight of benzene were stirred together vigorously for 2 hours at 60° C. Then the organic phase was separated and the benzene was distilled off under reduced pressure. 310 parts by weight of a residue remained which contained 297 parts by weight of p-tolyl acetate and 11 parts by weight of 4,4-dimethyl biphenyl in addition to palladium compounds. The reaction rate was 99% with a selectivity of 95%. The mixture was rectified over a short column at 10 m bar with the fraction passing over between 79° and 85° C. consisting of pure p-tolyl acetate. The distillation residue was taken up in acetone, and 4,4'-dimethyl biphenyl in pure form was obtained by addition of water.

reactant | p-tolyl thallium acetate perchlorate | Cl(=O)(=O)(=O)[O-].C(C)(=O)[O-].C1(=CC=C(C=C1)[Tl+2])C
reactant | water | O | H2O
catalyst | palladium (II)-acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4,4'-dimethyl biphenyl | CC1=CC=C(C=C1)C1=CC=C(C=C1)C | C14H14
